US04038409
1-[2,4-dichloro-β-(phenylcarbonylthio)phenethyl]imidazole;
1-[2,4-dichloro-β-(benzylcarbonylthio)phenethyl]imidazole as nitrate, mp 115°-116° C. (decomp-foaming).

reactant | 1-[2,4-dichloro-β-(benzylcarbonylthio)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)SC(=O)CC2=CC=CC=C2)C=CC(=C1)Cl | C19H16Cl2N2OS
reactant | nitrate | [N+](=O)([O-])[O-]
product | 1-[2,4-dichloro-β-(phenylcarbonylthio)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)SC(=O)C2=CC=CC=C2)C=CC(=C1)Cl | C18H14Cl2N2OS
